US04247543
(b) Boc-(D)-Ala-Gly-MePhe-Leu-OMe
To a solution of 24.6 g of Boc-(D)-Ala-Gly-OH and 11.2 ml of N-methylmorpholine in 400 ml of THF are added 13.2 ml of chloroformic acid isobutyl ester at -25°. After 5 minutes, at 25°, 11.2 ml of N-methyl-morpholine and 42.1 g of H-MePhe-Leu-OMe (trifluoroacetate) in DMF [which has previously been prepared by the treatment of Boc-MePhe-Leu-OMe with TFA-methylene chloride (1:1)] are added. After 2 hours, at -15°, the title compound is isolated as described under (a) above, as a solid foam.

reactant | Boc-(D)-Ala-Gly-OH | 24.6 g | N([C@H](C)C(=O)NCC(=O)O)C(=O)OC(C)(C)C | C10H18N2O5
reactant | N-methylmorpholine | 11.2 ml | CN1CCOCC1 | C5H11NO
reactant | chloroformic acid isobutyl ester | 13.2 ml | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | N-methyl-morpholine | 11.2 ml | CN1CCOCC1 | C5H11NO
reactant | H-MePhe-Leu-OMe | 42.1 g | N([C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC(C)C)C(=O)OC)C | C17H26N2O3
reactant | Boc-MePhe-Leu-OMe | C(=O)(OC(C)(C)C)N([C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC(C)C)C(=O)OC)C | C22H34N2O5
reactant | TFA methylene chloride | C(=O)(C(F)(F)F)O.C(Cl)Cl
solvent | THF | 400 ml | C1CCOC1 | C4H8O
solvent | DMF | CN(C)C=O | C3H7NO
product | Boc-(D)-Ala-Gly-MePhe-Leu-OMe | N([C@H](C)C(=O)NCC(=O)N([C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC(C)C)C(=O)OC)C)C(=O)OC(C)(C)C | C27H42N4O7
